US09085575B2
3.64 g (16.38 mmol) of ethyl 3-(4-methoxyphenyl)-3-oxopropanoate and 1.39 g of piperidine (16.38 mmol) are added to a solution of 2 g (16.38 mmol) of 2-hydroxybenzaldehyde in 15 ml of ethanol. The reaction mixture is stirred for 8 hours at reflux. The solution is cooled, and then the white solid formed is filtered and rinsed with a minimum of ethanol to yield 4.02 g (88%) of 3-(4-methoxybenzoyl)-2H-chromen-2-one.

reactant | ethyl 3-(4-methoxyphenyl)-3-oxopropanoate | 16.38 mmol, 3.64 g | COC1=CC=C(C=C1)C(CC(=O)OCC)=O | C12H14O4
reactant | piperidine | 16.38 mmol, 1.39 g | N1CCCCC1 | C5H11N
reactant | 2-hydroxybenzaldehyde | 16.38 mmol, 2 g | OC1=C(C=O)C=CC=C1 | C7H6O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-(4-methoxybenzoyl)-2H-chromen-2-one | 4.02 g, 88% | COC1=CC=C(C(=O)C=2C(OC3=CC=CC=C3C2)=O)C=C1 | C17H12O4
